US07947738B2
(7-b) 4-Methyl-3-hydroxyhept-6-enoic acid
Methyl 4-methyl-3-hydroxyhept-6-enoate (5.72 g, 33.2 mmol) was dissolved in a 2 N potassium hydroxide-methanol solution (50 mL), and the solution was stirred overnight at room temperature. From the reaction solution, the solvent was distilled off under reduced pressure. To the residue, a 1 N aqueous sodium hydroxide solution was then added, followed by extraction with diethyl ether. The aqueous layer was made acidic by the addition of concentrated hydrochloric acid under ice cooling, followed by extraction with diethyl ether again. The organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain the compound of interest as a yellow oil substance (2.21 g, 42%, mixture of diastereomers).

reactant | Methyl 4-methyl-3-hydroxyhept-6-enoate | 33.2 mmol, 5.72 g | CC(C(CC(=O)OC)O)CC=C | C9H16O3
solvent | potassium hydroxide methanol | 2 N, 50 mL | [OH-].[K+].CO
product | 4-Methyl-3-hydroxyhept-6-enoic acid | CC(C(CC(=O)O)O)CC=C | C8H14O3
